US08563565B2
(1) Synthesis of 4-bromo-3,5-dimethylphenyl trifluoromethanesulfonate
Trifluoromethanesulfonic anhydride (2.0 mL) was added dropwise to a solution of 4-bromo-3,5-dimethylphenol (CAS No. 7463-51-6) (2.0 g) and TEA (1.94 mL) in DCM (20 mL) under ice-cooling over three minutes. The reaction mixture was stirred at room temperature for 30 minutes. Ice and ethyl acetate were added to the reaction mixture, and the organic layer was separated. The organic layer was sequentially washed with 1 N hydrochloric acid, water, a saturated aqueous sodium bicarbonate solution and brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate/n-heptane, 5%) to give the title compound (3.20 g).

reactant | Trifluoromethanesulfonic anhydride | 2.0 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 4-bromo-3,5-dimethylphenol | BrC1=C(C=C(C=C1C)O)C | C8H9BrO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-bromo-3,5-dimethylphenyl trifluoromethanesulfonate | 3.20 g | FC(S(=O)(=O)OC1=CC(=C(C(=C1)C)Br)C)(F)F | C9H8BrF3O3S
